US07745477B2
a) Preparation of N-[2-(3-benzyloxy-phenyl)-ethyl]-N-(4-tert-butyl-benzyl)-3-chloro-2-fluoro-5-trifluoromethyl-benzamide
The title compound was prepared in analogy to Example 1, using [2-(3-benzyloxy-phenyl)-ethyl]-(4-tert-butyl-benzyl)-amine (S9-C43) and 3-chloro-2-fluoro-5-(trifluoromethyl)benzoic acid. MS: 597.3 [ISP (M+H)+].

reactant | [2-(3-benzyloxy-phenyl)-ethyl]-(4-tert-butyl-benzyl)-amine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNCC1=CC=C(C=C1)C(C)(C)C | C26H31NO
reactant | 3-chloro-2-fluoro-5-(trifluoromethyl)benzoic acid | ClC=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)F | C8H3ClF4O2
product | N-[2-(3-benzyloxy-phenyl)-ethyl]-N-(4-tert-butyl-benzyl)-3-chloro-2-fluoro-5-trifluoromethyl-benzamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN(C(C1=C(C(=CC(=C1)C(F)(F)F)Cl)F)=O)CC1=CC=C(C=C1)C(C)(C)C | C34H32ClF4NO2
